US04748171
p-Methoxybenzyl 7β-phenylacetamido-3-(4-carbamoyl-1-quinuclidinio)methyl-3-cephem-4-carboxylate iodide
p-Methoxybenzyl 7β-phenylacetamido-3-chloromethyl-3-cephem-4-carboxylate (980 mg) was suspended in acetone (20 ml), and sodium iodide (362 mg) was added to the suspension and stirred at room temperature for 1 hour. To the resulting suspension was added 4-carbamoylquinuclidine (313 mg) under ice-cooled condition, and the mixture was stirred for 2 hours. The reaction mixture was filtered, and diethyl ether (70 ml) was added to the filtrate. The deposited solid was filtered to obtain the desired product (500 mg).

reactant | p-Methoxybenzyl 7β-phenylacetamido-3-chloromethyl-3-cephem-4-carboxylate | 980 mg | C1(=CC=CC=C1)CC(=O)N[C@H]1[C@@H]2N(C(=C(CS2)CCl)C(=O)OCC2=CC=C(C=C2)OC)C1=O | C24H23ClN2O5S
reactant | sodium iodide | 362 mg | [I-].[Na+]
reactant | 4-carbamoylquinuclidine | 313 mg | C(N)(=O)C12CCN(CC1)CC2 | C8H14N2O
solvent | acetone | 20 ml | CC(=O)C | C3H6O
product | p-Methoxybenzyl 7β-phenylacetamido-3-(4-carbamoyl-1-quinuclidinio)methyl-3-cephem-4-carboxylate iodide | 500 mg | [I-].C1(=CC=CC=C1)CC(=O)N[C@H]1[C@@H]2N(C(=C(CS2)C[N+]23CCC(CC2)(CC3)C(N)=O)C(=O)OCC3=CC=C(C=C3)OC)C1=O | InChI=1S/C32H36N4O6S.HI/c1-41-24-9-7-22(8-10-24)19-42-30(39)27-23(18-36-14-11-32(12-15-36,13-16-36)31(33)40)20-43-29-26(28(38)35(27)29)34-25(37)17-21-5-3-2-4-6-21;/h2-10,26,29H,11-20H2,1H3,(H2-,33,34,37,40);1H/t26-,29-,32?,36?;/m1./s1
